US06277790B1
N-(Tetrahydrofuran-3-yl)propionamide
A solution of 50 g of 3-aminotetrahydrofuran in 200 ml of dichloromethane was mixed with 63.8 g (0.63 mol) of triethylamine. 58.4 g (0.63 mol) of propionyl chloride were added dropwise with ice-cooling. The mixture was stirred at room temperature for 2 days, resulting in a white precipitate. The solution was filtered and the filtrate was distilled. B.p. 145° C. (12 mm), yield 81 g. 1H NMR (270 MHz, in CDCl3): δ=1.14 (t, 3 H), 1.83 (m, 1H), 2.22 (q, 2H), 2.31 (m, 1H), 3.64 (dd, 1H), 3.72-3.98 (m, 3H), 4.50 (m, 1H), 6.57 (s, 1H).

reactant | 3-aminotetrahydrofuran | 50 g | NC1COCC1 | C4H9NO
reactant | triethylamine | 0.63 mol, 63.8 g | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 0.63 mol, 58.4 g | C(CC)(=O)Cl | C3H5ClO
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N-(Tetrahydrofuran-3-yl)propionamide | O1CC(CC1)NC(CC)=O | C7H13NO2
